Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
LLQ pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with no significant past medical history who
presents with 2d of LLQ pain, transferred from ___ for
concern for renal artery embolism and infarct.

Per the patient, he first developed ___ LLQ pain 5 days ago
that was sharp and then became dull and improved to ___ on its
own. He noted soon after he became nauseous but did not vomit,
and had a decreased appetite. He also noted diffuse myalgia and
developed a cough with minimal production of white sputum 
without
chest pain or shortness of breath. He admits to loose stools
since ___ ISO mirilax x1, however no blood or melena.  He 
went
to the ___ urgent care where a diagnosis of
diverticulitis was considered and underwent CT. CT was negative
for diverticulitis but was read as thrombus in the left renal
artery with ischemia of the inferior pole of the left kidney. He
reported to the ___ and was transferred to ___ for
further management. 

Per ED notes, 
Patient has been having LLQ pain 4 days ago with aches and
chills. Started suddenly ___ morning and has been initially
an intermittent pain that is now constant dull pressure in the
LLQ. Notes nausea without vomiting. No hx of surgeries. No
dysuria or hematuria. No fever/chills. No trauma or blood
disorders. Has had few bouts of watery stool these past 2 days
without blood or black tarry colors.

In the ED:
- Initial vital signs were notable for:
___, 118/64, 82, 14, 100% RA, ___ pain

- Exam notable for:
General: Well appearing, no acute distress
Cardiac: RRR no rgm
Pulmonary: Clear to auscultation bilaterally, no 
crackles/wheezes
Abdominal/GI: Mild tenderness to the LLQ quadrant.
Renal: No CVA tenderness
MSK: No deformities or signs of trauma
Derm: No rashes or signs of trauma
Psych: Normal judgment, mood appropriate for situation

Labs:
___ 09:51PM BLOOD WBC: 14.6* RBC: 5.21 Hgb: 15.5 Hct: 45.6
MCV: 88 MCH: 29.8 MCHC: 34.0 RDW: 11.9 RDWSD: 38.___ 
___ 09:51PM BLOOD Neuts: 75.0* Lymphs: 13.4* Monos: 10.7
Eos: 0.1* Baso: 0.3 Im ___: 0.5 AbsNeut: 10.97* AbsLymp: 1.96
AbsMono: 1.56* AbsEos: 0.02* AbsBaso: 0.05 
___ 09:51PM BLOOD ___: 14.0* PTT: 28.5 ___: 1.3* 
___ 09:51PM BLOOD Glucose: 101* UreaN: 16 Creat: 1.1 Na: 
137
K: 4.3 Cl: 100 HCO3: 21* AnGap: 16 
___ 09:51PM BLOOD ALT: 35 AST: 31 AlkPhos: 57 TotBili: 1.8* 

___ 09:51PM BLOOD Albumin: 4.4 
___ 09:51PM BLOOD Lactate: 1.2 

Consults: VASCULAR
___ male patient with no significant past medical 
history
 who presents to the ED as of transfer from an outside hospital
 for a possible renal infarct. Patient appears to be more
 comfortable with resolving symptoms. His CT scan does show 
renal
 infarct with renal stenosis but may benefit from imaging to
 better characterize the lesion. We recommend CTA, starting on a
 heparin drip, work-up for possible cause of coagulopathy, and
UA.
 He does not need immediate surgical intervention but we will
 continue to follow.

ED course was notable for Afib with RVR to 110 and received IV
dilt x1 with normalization of ventricular rate to 103 and was
continued on 30mg PO dilt. He was transferred to ___ 11 for
further management of his condition. 

Upon arrival to the floor
Temp: 98.2, BP: 120/77, HR: 95, RR: 18, O2 sat: 95% RA

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.

 
Past Medical History:
Carpal tunnel syndrome

 
Social History:
___
Family History:
Father: died of cancer (unknown type), history of DVT and
?warfarin induced skin necrosis
Mother: lives in assisted living, 3x survivor of breast and
uterine cancre
Older brother with melanoma
___ brother with diabetes 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp: 98.2, BP: 120/77, HR: 95, RR: 18, O2 sat: 95% RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Tattoo over left chest. Irregular rhythm, normal rate.
Audible S1 and S2. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Tattoos over back. No spinous process tenderness. No CVA
tenderness.
ABDOMEN: Normal bowels sounds, non distended, tender to deep
palpation in LLQ. Without tenderness in all other quadrants No
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
=========================
___ 1116 Temp: 98.5 PO BP: 131/81 HR: 80 RR: 18 O2 sat: 96% 
O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. EOMI. Sclera anicteric and without injection.
CARDIAC: Tattoo over left chest. RRR. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
BACK: Tattoos over back. No CVA tenderness.
ABDOMEN: Normal bowel sounds, non distended, mild tenderness to 
deep
palpation in LLQ. Without tenderness in all other quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
Skin: clean, dry, intact, no rash
Neuro: CNII-XII grossly intat, non focal, srength ___ throughout
 
Pertinent Results:
NOTABLE ADMISSION LABS:
=======================
CBC:
WBC 14.6
Neutrophils: 75

Coags:
___ 14
PTT 28.5
INR 1.3

BMP:
BUN 16
Cr 1.1
HCO3 21

NOTABLE DISCHARGE LABS:
=======================
CBC:
WBC 7.8

Coags:
PTT 60.4

BMP:
BUN 13
Cr 1.2
HCO3 25

Other:
HbA1c 6.1
TotCholesterol 139 Triglyc 84 HDL 37 LDL 85
TSH 4.1
Beta2 glycoprotein & anticardiolipin ab PND

URINE ANALYSIS:
===============
GENERAL URINE INFORMATION Type Color ___ 
___ ___      Yellow Clear >1.050* 
 DIPSTICK URINALYSIS Blood Nitrite Protein Glucose Ketone 
Bilirub Urobiln pH Leuks 
___ 22:23    NEG NEG 30* NEG 40* NEG NEG 6.0 NEG 
 MICROSCOPIC URINE EXAMINATION RBC WBC Bacteri Yeast Epi TransE 
RenalEp 
___ 22:23    2 1 NONE NONE <1     
 OTHER URINE FINDINGS Mucous 
___ 22:23    RARE* 

IMAGING:
========
TTE ___ 09:30
IMPRESSION: The rhythm appears to be atrial fibrillation, which 
may explain embolic events.
Normal left ventricular wall thickness and biventricular cavity 
sizes and regional/global
(hyperdynamic) biventricular systolic function. Mildly dilated 
aortic arch. Mild mitral
regurgitation. No mass/vegetation seen on any valves.

CTA CHESTStudy Date of ___ 10:36 AM
IMPRESSION:
1. Left inferior pole renal infarct, with occlusion of the left 
inferior pole
branch of left renal artery.
2. Right interpolar renal infarct, without a definite filling 
defect.  In
addition to the main right renal artery, there are also 
accessory right renal
arteries supplying both the upper and lower pole.
3.   No aortic dissection or intraluminal plaque.  Minimal 
atherosclerotic
disease.
4. Left lower lobe pulmonary nodules measuring up to 3 mm.  No 
specific
follow-up is recommended in a low risk patient, and a high risk 
patient an
optional 12 month follow-up chest CT is recommended.
 
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule
smaller than 6 mm, no CT follow-up is recommended in a low-risk 
patient, and an optional CT in 12 months is recommend in a 
high-risk patient.
 
Brief Hospital Course:
PATIENT SUMMARY
===============
Mr. ___ is a ___ year old man with no significant past medical 
history who presented to area urgent care with mild LLQ pain 
found to have left renal infarction, transferred to ___ and 
found to have afib with RVR and bilateral renal infarctions on 
repeat imaging. Anticoagulated with heparin during hospital 
stay, rate controlled with PO diltiazem, discharged on ___ 
with outpatient follow up. 

TRANSITIONAL ISSUES
===================
[ ] Patient will follow up with Dr. ___ intern taking 
care of him this admission, after discharge. His last PCP was 
Dr. ___ but he has not seen him in years. Dr. 
___ will work to ultimately transfer him to a PCP closer to 
home, in ___.
[ ] Being loaded with apixaban 10mg PO BID x7 days (___) for 
acute clot, assure switch to 5mg PO BID afterwards
[ ] A1c 6.1. Discussed diagnosis of "pre diabetes" with patient 
and encouraged lifestyle modifications. Recommend repeat a1c in 
3 months (___)
[ ] Follow up beta-2-glycoprotein and cardiolipin antibody 
testing, which were pending at the time of discharge
[ ] CTA torso ___ showed left lower lobe pulmonary nodules 
measuring up to 3mm. Given his history of smoking, we recommend 
a follow-up chest CT in one year (___) to reevaluate.

ACUTE ISSUES:
=============
#Renal infarction
Patient presented to urgent care with mild LLQ pain. Imaging at 
OSH concerning for left renal thrombus and infarct and 
transferred to ___ for further management and evaluation. In 
the ED, he was found to have Afib with RVR. Echocardiogram 
showed no structural abnormalities or atrial thrombus. CTA 
chest/abd/pelvis showed no signs of dissection or 
atherosclerotic source of embolus though did show concern for 
bilateral renal infarction. Cr was normal and stable throughout 
the hospitalization. Infarction most likely due to a cardiogenic 
embolus in the setting of atrial fibrillation, although 
congenital versus acquired coagulopathy cannot be ruled out 
while patient on anticoagulation. Beta-2-glycoprotein and 
cardiolipin antibodies pending at time of discharge. 

#Atrial fibrillation with RVR
Afib with RVR in the 130s in the ED and sporadically on the 
floor, improved on 45mg diltiazem PO q6h with HR in the 80-100s. 
Patient denies a previous diagnosis of this condition however 
has had poor medical follow up in the past. No known risk 
factors for Afib. Differential explored including cardiovascular 
risk factors; lipid panel WNL and A1c only mildly elevated at 
6.1. No indication for statin at this time. Echocardiogram did 
not show valvular disease or structural causes of Afib. 
Thyrotoxicosis unlikely given normal TSH. Lower on the 
differential includes pulmonary causes such as COPD, although he 
has only 6.5 pack years smoking history and remote history with 
no signs of COPD on exam. Most likely new idiopathic Afib. 
Discharged on diltiazem and apixaban.

#LLQ pain
Initially presented with LLQ pain to urgent care where there was 
initial concern for diverticulitis. However, given that he is 
afebrile, very mildly TTP, no change in bowel habits, this pain 
is more likely related to renal infarction. Did not require 
analgesia. 

#Leukocytosis
WBC 14.6 on admission with neutrophil predominance. Likely acute 
reaction ISO acute renal infarction. Resolved by discharge.

TRANSITIONAL ISSUES
===================
[ ] Patient will follow up with Dr. ___ intern taking 
care of him this admission, after discharge. His last PCP was 
Dr. ___ but he has not seen him in years. Dr. 
___ will work to ultimately transfer him to a PCP closer to 
home, in ___.
[ ] Being loaded with apixaban 10mg PO BID x7 days (___) for 
acute clot, assure switch to 5mg PO BID afterwards
[ ] A1c 6.1. Discussed diagnosis of "pre diabetes" with patient 
and encouraged lifestyle modifications. Recommend repeat a1c in 
3 months (___)
[ ] Follow up beta-2-glycoprotein and cardiolipin antibody 
testing, which were pending at the time of discharge
[ ] CTA torso ___ showed left lower lobe pulmonary nodules 
measuring up to 3mm. Given his history of smoking, we recommend 
a follow-up chest CT in one year (___) to reevaluate.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg (74 tabs) 2 tablet(s) by mouth twice 
a day Disp #*1 Dose Pack Refills:*0 
2.  Diltiazem Extended-Release 180 mg PO DAILY 
RX *diltiazem HCl 180 mg 1 capsule(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Bilateral renal infarction

SECONDARY DIAGNOSIS
===================
Atrial fibrillation
Prediabetes
Pulmonary Nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were sent from ___ to ___ given imaging 
findings that suggested there was decreased blood flow and 
damage to your left kidney, likely due to a blood clot. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You were found to have an irregular heart rhythm called atrial 
fibrillation, which can cause the formation of blood clots. You 
were given a medication to control the irregular heart rhythm as 
well as a medication to prevent the formation of more blood 
clots.
- We performed an imaging study called an echocardiogram to see 
if there might be any structural abnormalities in your heart. We 
also performed an imaging study to assess the blood vessels in 
your chest and abdomen. These studies did not reveal any other 
potential causes of the blood clot in your kidney. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and keep your 
upcoming appointment. Please also establish long term care with 
a new primary care physician.
- You were started on new medications for your atrial 
fibrillation. These medications are very important. Diltiazem is 
to keep your heart rates controlled. Apixaban is to prevent more 
blood clots. Please take 10mg of apixaban twice daily for 7 days 
(___) and then switch to 5mg twice daily. 

We wish you all the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___